US05294734
46.5 g (0.29 mol) of 4-acetoxypentanoic acid are dissolved at room temperature in 230 ml of abs. toluene, and then 0.2 ml of abs. Dimethyl formamide is added. Then 32.6 ml (0.38 mol) of oxalyl chloride are added dropwise such that the evolution of gas remains under control. When the dropwise addition is complete, the reaction mixture is heated to 50° C. and stirred for 1 hour at this temperature. The orange-red reaction solution is concentrated by evaporation. Distillation of the residue gives 42.2 g of 4-acetoxypentanoic acid chloride as a colorless liquid of b.p.34 110°-112° C.

reactant | 4-acetoxypentanoic acid | 0.29 mol, 46.5 g | C(C)(=O)OC(CCC(=O)O)C | C7H12O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | oxalyl chloride | 0.38 mol, 32.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | Dimethyl formamide | CN(C=O)C | C3H7NO
product | 4-acetoxypentanoic acid chloride | 42.2 g | C(C)(=O)OC(CCC(=O)Cl)C | C7H11ClO3
